US05488055
A mixture of N-(1-ethylpyrazol-5-yl)-5-nitroanthranilic acid (3.8 g, 13.77 mmol) and POCl3 (20 ml) was refluxed for 8 hours. The reaction mixture was poured into ice-water, neutralized with concentrated NH4OH and the resulting solid was collected by filtration, washed with water and dried to afford 2.5 g (65%) of 1-ethyl-4-chloro-6-nitro-1H-pyrazolo[3,4-b]quinoline.

reactant | N-(1-ethylpyrazol-5-yl)-5-nitroanthranilic acid | 13.77 mmol, 3.8 g | C(C)N1N=CC=C1NC=1C(C(=O)O)=CC(=CC1)[N+](=O)[O-] | C12H12N4O4
reactant | NH4OH | [NH4+].[OH-]
reactant | POCl3 | 20 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-ethyl-4-chloro-6-nitro-1H-pyrazolo[3,4-b]quinoline | 2.5 g, 65% | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2Cl)[N+](=O)[O-] | C12H9ClN4O2
